US07173138B2
23.6 g (65 mmol) of 1,8-dibromoanthraquinone were suspended in 250 ml of methanol. At 10° C., 9.9 g (260 mmol) of NaBH4 were added slowly and the mixture was subsequently stirred at 0° C. for 2 hours. The mixture was poured onto 800 ml of ice, stirred and filtered under reduced pressure. The solid was subsequently suspended in 400 ml of 18% strength hydrochloric acid and stirred at 70° C. for 5 hours, after which it was once again filtered off under reduced pressure, washed until neutral and dried. The solid was stirred with 14.8 g of NaBH4 in 250 ml of isopropanol at 85° C. (reflux) for 3 hours, brought to a pH of 7 by addition of dilute hydrochloric acid, filtered off with suction and washed with water. 1,8-Dibromoanthracene was obtained in a yield of 16.2 g (74% of theory).

reactant | 1,8-dibromoanthraquinone | 65 mmol, 23.6 g | BrC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)Br)=O | C14H6Br2O2
reactant | NaBH4 | 260 mmol, 9.9 g | [BH4-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 1,8-Dibromoanthracene | BrC1=CC=CC2=CC3=CC=CC(=C3C=C12)Br | C14H8Br2
